US07002011B1
Chlorine gas was passed at 20 to 25° C. into a suspension of 150 g of 2-amino-4-methylthio-6-(1-fluoroisopropyl)-1,3,5-triazine in 1 liter of glacial acetic acid (15 min). The reaction mixture was stirred for 30 min at approx. 20° C., flushed with nitrogen gas for 1 h at room temperature, poured into 5 liters of ice-cold aqueous solution of 350 g of sodium hydroxide and stirred for 5 min. After filtration with suction and drying, 110 g (80%) of 2-amino-4-chloro-6-(1-fluoroisopropyl)-1,3,5-triazine were obtained as a white powder (m.p. 185° C.).

reactant | Chlorine | ClCl | Cl2
reactant | 2-amino-4-methylthio-6-(1-fluoroisopropyl)-1,3,5-triazine | 150 g | NC1=NC(=NC(=N1)SC)C(C)(C)F | C7H11FN4S
solvent | acetic acid | 1 liter | C(C)(=O)O | C2H4O2
product | 2-amino-4-chloro-6-(1-fluoroisopropyl)-1,3,5-triazine | 110 g, 80% | NC1=NC(=NC(=N1)Cl)C(C)(C)F | C6H8ClFN4
